US04678793
By treating p-[(E)-2-(4,4-dimethyl-6-chromanyl)propenyl]benzyl alcohol with acetyl chloride and pyridine there is obtained p-[(E)-2-(4,4-dimethyl-6-chromanyl)propenyl]benzyl acetate.

reactant | p-[(E)-2-(4,4-dimethyl-6-chromanyl)propenyl]benzyl alcohol | CC1(CCOC2=CC=C(C=C12)/C(=C/C1=CC=C(CO)C=C1)/C)C | C21H24O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-[(E)-2-(4,4-dimethyl-6-chromanyl)propenyl]benzyl acetate | C(C)(=O)OCC1=CC=C(C=C1)\C=C(/C)\C=1C=C2C(CCOC2=CC1)(C)C | C23H26O3
